US06727264B1
1-PHENYL-1H-INDOLE:
Prepared by Procedure C and Scheme O using 1H-indole and iodobenzene: ESMS m/e: 193.9 (M+H)+.

reactant | 1H-indole | N1C=CC2=CC=CC=C12 | C8H7N
reactant | iodobenzene | IC1=CC=CC=C1 | C6H5I
product | 1-PHENYL-1H-INDOLE | C1(=CC=CC=C1)N1C=CC2=CC=CC=C12 | C14H11N
